US05734067
N,N-Dimethylformamide (20 ml) was added to 2-chloro-6-fluorophenyl acetic acid (3.77 g), 3,5-dimethoxyphenol (3.08 g), potassium carbonate (5.52 g), copper iodide (950 mg) and copper (250 mg), for stirring at 120° C. for 20 hours. The resulting reaction solution was partitioned with ethyl acetate and dilute hydrochloric acid, and the organic phase was washed in water and in a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate, to distill off the solvents under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: hexane:ethyl acetate=7:3), to recover 2-(3,5-dimethoxyphenoxy)-6-fluorophenyl acetic acid (5.27 g; yield of 86%). By 1H-NMR (90 MHz, CDCl3), the compound has the peaks shown below.

reactant | 2-chloro-6-fluorophenyl acetic acid | 3.77 g | ClC1=C(C(=CC=C1)F)CC(=O)O | C8H6ClFO2
reactant | 3,5-dimethoxyphenol | 3.08 g | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | potassium carbonate | 5.52 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper iodide | 950 mg | [Cu](I)I
catalyst | copper | 250 mg | [Cu] | Cu
solvent | N,N-Dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(3,5-dimethoxyphenoxy)-6-fluorophenyl acetic acid | 5.27 g, yield of 86% | COC=1C=C(OC2=C(C(=CC=C2)F)CC(=O)O)C=C(C1)OC | C16H15FO5
